US04803200
2-[(2-Methoxyethyl)amino]-1-phenyl-1-propanone, monohydrochloride.
A solution of α-bromopropiophenone (2.13 g, 0.010 mole) in ether (10 ml) was added dropwise to a stirred solution of 2-methoxyethylamine (1.50 g, 0.020 mole) in ether (20 ml). The mixture was then stirred at ambient temperature for 18 hr. The ether layer was decanted from an insoluble oil, washed with water (20 ml), and then extracted with 2N hydrochloric acid solution (20 ml). The acid extract was basified to pH 10 with 6N sodium hydroxide solution, and this solution extracted with ether (50 ml). The extract was dried over magnesium sulfate and concentrated to give a clear yellow oil. The oil was dissolved in ether and treated with excess ethereal hydrogen chloride. The product separated from solution as an oil, but solidified upon trituration. The yield was 0.85 g (35%), m.p. 133°-134° C.

reactant | α-bromopropiophenone | 0.010 mole, 2.13 g | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
reactant | 2-methoxyethylamine | 0.020 mole, 1.50 g | COCCN | C3H9NO
reactant | hydrogen chloride | Cl | ClH
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 2-[(2-Methoxyethyl)amino]-1-phenyl-1-propanone, monohydrochloride | Cl.COCCNC(C(=O)C1=CC=CC=C1)C | InChI=1S/C12H17NO2.ClH/c1-10(13-8-9-15-2)12(14)11-6-4-3-5-7-11;/h3-7,10,13H,8-9H2,1-2H3;1H
